US06559255B2
E. Copolymer of Styrene:4-styrenesulfonic Acid Sodium Salt 1:0.01 by Weight
In a 250 mL Morton flask (fitted with mechanical stirrer, thermometer, and oil bath heating) under argon atmosphere were combined 4-styrenesulfonic acid sodium salt hydrate (0.20 g), butyl acrylate (Aldrich, 20.0 g), a-olefin sulfonate surfactant (Rhodia, Rhodacal A-246/L, 25.0 g of a ca. 40% aqueous solution), and water (145 g). The mixture was stirred and heated in a 90° C. oil bath until an internal temperature of ca. 75° C. was obtained, and then a solution of initiator (K2S2O8, Aldrich, 0.40 g, dissolved in 10 mL H2O) was added all at once via a syringe. The appearance of the nearly opaque aqueous monomer emulsion changed quickly over less than 5 minutes to form a translucent, bluish scattering emulsion. The mixture was stirred and heated for an additional 6 h in the 95° C. oil bath (internal temperature ca. 92° C.) to decompose the excess initiator. The mixture was cooled with stirring, and filtered to remove a small amount of suspended solid. Yield 198.9 g of emulsion, pH ca. 4 to pH paper, 15.65% solids, particle size=12.3 nm Rh, by DLS, (2nd cumulant analysis PDI=0.07).

reactant | 4-styrenesulfonic acid sodium salt hydrate | 0.20 g | O.[Na+].C=CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | butyl acrylate | 20.0 g | C(C=C)(=O)OCCCC | C7H12O2
solvent | H2O | 10 mL | O | H2O
solvent | water | 145 g | O | H2O
product | Styrene 4-styrenesulfonic Acid Sodium Salt | C=CC1=CC=CC=C1.[Na+].C=CC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C8H8O3S.C8H8.Na/c1-2-7-3-5-8(6-4-7)12(9,10)11;1-2-8-6-4-3-5-7-8;/h2-6H,1H2,(H,9,10,11);2-7H,1H2;/q;;+1/p-1
